US05521147
By the method of Example 1, Step G, 2.10 g (0.010 mole) of 4-chloro-2,3-dihydrobenzofuran-3-on-7-yl isocyanate is reacted with 0.40 g (0.010 mole) of sodium hydride and 1.83 g (0.010 mole) of ethyl 3-amino-4,4,4-trifluorocrotonate, yielding 3-(4-chloro-2,3-dihydrobenzofuran-3-on-7-yl)-6-trifluoromethyluracil. This product is further reacted with 1.38 g (0.010 mole) of potassium carbonate and 2.80 g (0.020 mole) of methyl iodide, yielding 3-(4-chloro-2,3-dihydrobenzofuran-3-on-7-yl)-1-methyl-6-trifluoromethyluracil (Compound 30).

reactant | 4-chloro-2,3-dihydrobenzofuran-3-on-7-yl isocyanate | 0.010 mole, 2.10 g | ClC1=CC=C(C2=C1C(CO2)=O)N=C=O | C9H4ClNO3
reactant | sodium hydride | 0.010 mole, 0.40 g | [H-].[Na+]
reactant | ethyl 3-amino-4,4,4-trifluorocrotonate | 0.010 mole, 1.83 g | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
product | 3-(4-chloro-2,3-dihydrobenzofuran-3-on-7-yl)-6-trifluoromethyluracil | ClC1=CC=C(C2=C1C(CO2)=O)N2C(NC(=CC2=O)C(F)(F)F)=O | C13H6ClF3N2O4
